### PR TITLE
[Merged by Bors] - refactor(AlgebraicGeometry/Sites/Small): golf and remove some `backward.isDefEq.respectTransparency`

### PR DESCRIPTION
**Pull request by tb65536**
This PR golfs and removes some `backward.isDefEq.respectTransparency`. Some proofs with the help of Claude, with further golfing by myself.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dagurtomas** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/76ed23889f1b5d26a295dab4ccbe5ea0a693435d?reference=6ca518ac72a1398fb20f061e45611eead76304cd) for 76ed23889f1b5d26a295dab4ccbe5ea0a693435d against 6ca518ac72a1398fb20f061e45611eead76304cd are in. There are significant results. @dagurtomas

- ✅ `build//instructions`: **-380.6G** (**-0.26%**)

**Large changes (1✅)**

- *1 hidden*

**Small changes (1✅)**

- ✅ `build/module/Mathlib.AlgebraicGeometry.Sites.Small//instructions`: **-7.7G** (**-39.44%**) (reduced significance based on *//lines)

File: Mathlib/AlgebraicGeometry/Sites/Small.lean [hunk 1]
```diff
@@ -107,51 +105,29 @@ abbrev overGrothendieckTopology : GrothendieckTopology (Over S) :=
...
-  constructor
-  · rintro ⟨T, ⟨𝒰, h, rfl⟩, hle⟩
-    use 𝒰, h
-  · rintro ⟨𝒰, h𝒰, hle⟩
-    exact ⟨𝒰.toPresieveOver, ⟨𝒰, h𝒰, rfl⟩, hle⟩
-
-variable [Q.IsStableUnderComposition]
+  simp_rw [GrothendieckTopology.mem_over_iff, mem_grothendieckTopology_iff]
+  refine exists_congr fun 𝒰 ↦ ?_
+  simp_rw [Cover.toPresieveOver_le_arrows_iff]
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/Sites/Small.lean]:
```suggestion
  simp only [GrothendieckTopology.mem_over_iff, mem_grothendieckTopology_iff]
  refine exists_congr fun 𝒰 ↦ ?_
  simp only [Cover.toPresieveOver_le_arrows_iff]
```

File: Mathlib/AlgebraicGeometry/Sites/Small.lean [hunk 2]
```diff
@@ -75,29 +88,14 @@ lemma Cover.toPresieveOver_le_arrows_iff {X : Over S} (R : Sieve X)
...
-  transitive := by
-    rintro X _ T ⟨𝒰, h, rfl⟩ H
-    choose V h hV using H
-    refine ⟨𝒰.bind (fun j => V ((𝒰.f j).asOver S) ⟨j⟩), inferInstance, ?_⟩
-    convert!
-      Presieve.ofArrows_bind _ (fun j ↦ (𝒰.f j).asOver S) _ (fun Y f H j ↦ ((V f H).X j).asOver S)
-        (fun Y f H j ↦ ((V f H).f j).asOver S)
-    apply hV
+abbrev overPretopology : Pretopology (Over S) :=
+  ((Scheme.precoverage P).over S).toPretopology
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/Sites/Small.lean:98]: This seems like the correct thing to do, I would like users of this API to confirm that this change is desired. Should we have a lemma proving equality with the old definition?

Comment (tb65536) [reply Mathlib/AlgebraicGeometry/Sites/Small.lean:98]: Regarding users of this API, it was @erdOne who suggested this change. Given how messy the old definition is, I don't know if it's worth keeping around given that all of the API is preserved.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
